* /home/firuza/esim-workspace/babysoc/babysoc.cir
.include sky130nm.lib
.include avsdpll_1v8.sub
.include 10bitDAC.sub
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ rvmyth
* u4  clk_out_by_8 reset net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u5  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ net-_u5-pad15_ net-_u5-pad16_ dac_bridge_8
* u6  net-_u1-pad11_ net-_u1-pad12_ net-_u6-pad3_ net-_u6-pad4_ dac_bridge_2
x1 net-_u6-pad4_ net-_u6-pad3_ net-_u5-pad16_ net-_u5-pad15_ net-_u5-pad14_ net-_u5-pad13_ net-_u5-pad12_ net-_u5-pad11_ net-_u5-pad10_ net-_u5-pad9_ output 10bitDAC
v1  clock gnd pulse(0 5 0.1n 0.1n 0.1n 1m 2m)
v2  reset gnd pulse(0 5 0.1n 0.1n 0.1n 1m 5000m)
* u7  output plot_v1
* u3  clk_out_by_8 plot_v1
* u2  reset plot_v1
x2 clock clk_out_by_8 ? ? ? ? ? ? avsdpll_1v8
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] u1
a2 [clk_out_by_8 reset ] [net-_u1-pad1_ net-_u1-pad2_ ] u4
a3 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] [net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ net-_u5-pad15_ net-_u5-pad16_ ] u5
a4 [net-_u1-pad11_ net-_u1-pad12_ ] [net-_u6-pad3_ net-_u6-pad4_ ] u6
* Schematic Name:                             rvmyth, NgSpice Name: rvmyth
.model u1 rvmyth(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 40e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(output)
plot v(clk_out_by_8)
plot v(reset)
.endc
.end
